US04371536
10.2 g of 4-methyl-1,2,3,4-tetrahydro-β-carbolin-3-carboxylic acid ethyl ester is dissolved/suspended in 300 ml xylene and the mixture is boiled for 10 minutes in a Dean-Stark apparatus to remove moisture. After cooling to 100°-110° C., 2.1 mole equivalents of sulphur are added and the mixture is boiled under reflux for 5 hours. The progress of the reaction is followed by DC. Subsequently, the xylene is evaporated in vacuo. The remainder is dissolved in chloroform and purified by chromatography (chloroform-ethanol radient) on silica to remove non-reacted sulphur. 4-Methyl-β-carbolin-3-carboxylic acid ethyl ester having a melting point of 235°-239° C. is obtained in a yield of 72%.

reactant | 4-methyl-1,2,3,4-tetrahydro-β-carbolin-3-carboxylic acid ethyl ester | 10.2 g | C(C)OC(=O)C1NCC=2NC3=CC=CC=C3C2C1C | C15H18N2O2
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-Methyl-β-carbolin-3-carboxylic acid ethyl ester | yield of 72% | C(C)OC(=O)C=1N=CC=2NC3=CC=CC=C3C2C1C | C15H14N2O2
